US08217064B2
A mixture of compound ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate (500 mg, 1.15 mmol), 4-methyl phenylboronic acid (0.237 g, 1.74 mmol), Palladium Tetrakis(triphenylphosphine) (0.134 g, 0.116 mmol), Cesium fluoride (0.354 g, 2.23 mmol) in DME (30 ml) was stirred for overnight at 100° C. After completion of the reaction, the precipitate was removed by filtration. The filtrate was diluted with water and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography to yield ethyl 2-(5-chloro-4′-methyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)-3-cyclopropylpropanoate (375 mg), as a thick oil.

reactant | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate | 1.15 mmol, 500 mg | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)C(C(=O)OCC)CC1CC1 | C16H17BrClF3O3
reactant | 4-methyl phenylboronic acid | 1.74 mmol, 0.237 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Cesium fluoride | 2.23 mmol, 0.354 g | [F-].[Cs+]
solvent | DME | 30 ml | COCCOC | C4H10O2
catalyst | Palladium Tetrakis(triphenylphosphine) | 0.116 mmol, 0.134 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | ethyl 2-(5-chloro-4′-methyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)-3-cyclopropylpropanoate | 375 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C)C(C(=O)OCC)CC1CC1 | C23H24ClF3O3
